US05336687
Step 1: Preparation of E, Z-methyl 4,4-diethoxy-3-(4-trifluoromethylphenoxy)-2-butenoate
To a solution of 2.43 g (15 mmol) of 4-trifluoromethylphenol in 40 mL of THF was added 1.12 g (20 mmol) of powdered KOH and 5.28 g (20 mmol) of 18-crown-6. The solution was heated to 50° C. for 15 minutes, whereupon 3.73 g (20 mmol) of methyl 4,4-diethoxy-2-butynoate was added. The mixture was stirred for 30 minutes, then allowed to cool to room temperature. The solution was then poured into water, and extracted 3 times with 40 mL of ethyl acetate. The organic layers were combined, dried (MgSO4) and concentrated. The crude oil was subjected to column chromatography on SiO2. Elution with 20% ethyl acetatehexane yielded 2.31 g (65%) of an oil, used in the next step without further purification.

reactant | 4-trifluoromethylphenol | 15 mmol, 2.43 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | KOH | 20 mmol, 1.12 g | [OH-].[K+]
reactant | 18-crown-6 | 20 mmol, 5.28 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl 4,4-diethoxy-2-butynoate | 20 mmol, 3.73 g | C(C)OC(C#CC(=O)OC)OCC | C9H14O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Z-methyl 4,4-diethoxy-3-(4-trifluoromethylphenoxy)-2-butenoate | 2.31 g, 65% | C(C)OC(/C(=C/C(=O)OC)/OC1=CC=C(C=C1)C(F)(F)F)OCC | C16H19F3O5
